US09226916B2
[(3S,4R)-1-(1-Acetyl-piperidine-4-carbonyl)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
A mixture of 94 mg (0.204 mmol) 4-fluorophenyl (3S,4R)-4-(4-chlorophenyl)-1-(piperidine-4-carbonyl)pyrrolidin-3-yl(methyl)carbamate and 132 mg (1.02 mmol) DIPEA in 5 mL DCM was added 24.1 mg (0.3 mmol) acetyl chloride and stirred for 5 h. Methanol was added and stirred over night. The reaction mixture was extracted with sat NaHCO3 and the aqueous layer extracted with DCM. The combined organic layers were dried with Na2SO4, filtered off and concentrated in vacuum. The residue was subjected to purification by column chromatography on silica eluting with a gradient formed from DCM, methanol and NH3aq. The product containing fractions were evaporated to yield 53 mg (52%) of the title compound as light yellow foam. MS m/e: 502.2 [M+H]+.

reactant | 4-fluorophenyl (3S,4R)-4-(4-chlorophenyl)-1-(piperidine-4-carbonyl)pyrrolidin-3-yl(methyl)carbamate | 0.204 mmol, 94 mg | ClC1=CC=C(C=C1)[C@H]1[C@@H](CN(C1)C(=O)C1CCNCC1)N(C(OC1=CC=C(C=C1)F)=O)C | C24H27ClFN3O3
reactant | DIPEA | 1.02 mmol, 132 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 0.3 mmol, 24.1 mg | C(C)(=O)Cl | C2H3ClO
reactant | Methanol | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [(3S,4R)-1-(1-Acetyl-piperidine-4-carbonyl)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | 53 mg, 52% | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C(C)=O)=O | C26H29ClFN3O4
